US06720338B2
methyl 4-((4-butylbenzyl)oxy)benzoate
A solution of triphenylphosphine (656 mg, 2.50 mmol) in THF (12 mL) at 0° C. was treated with diethyl azodicarboxylate (442 mg, 2.54 mmol), stirred for 20 minutes, treated with ethyl 4-hydroxybenzoate (350 mg, 2.30 mmol) and 4-butylbenzyl alcohol (414 mg, 2.52 mmol), warmed to room temperature, stirred for 16 hours, and concentrated. The concentrate was purified by flash column chromatography on silica gel with 30% ethyl acetate/hexanes to provide the desired product.

reactant | triphenylphosphine | 2.50 mmol, 656 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 2.54 mmol, 442 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | ethyl 4-hydroxybenzoate | 2.30 mmol, 350 mg | OC1=CC=C(C(=O)OCC)C=C1 | C9H10O3
reactant | 4-butylbenzyl alcohol | 2.52 mmol, 414 mg | C(CCC)C1=CC=C(CO)C=C1 | C11H16O
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | methyl 4-((4-butylbenzyl)oxy)benzoate | C(CCC)C1=CC=C(COC2=CC=C(C(=O)OC)C=C2)C=C1 | C19H22O3
